US05039805
For the preparation of the starting material, 5-[1-(t-butoxy)formamido]valeric acid and 3-amino-p-toluic acid are coupled to give 3-[5-(1-t-butoxyformamido)valeramido]-p-toluic acid, m.p. 212° C., and the latter is coupled with β-alanine benzyl ester to give N-[3-[5-(1-t-butoxyformamido)valeramido]-p-toluoyl]-β-alanine benzyl ester, m.p. 112°-113° C.

reactant | 5-[1-(t-butoxy)formamido]valeric acid | C(C)(C)(C)OC(=O)NCCCCC(=O)O | C10H19NO4
reactant | 3-amino-p-toluic acid | NC=1C=C(C=CC1C(=O)O)C | C8H9NO2
product | 3-[5-(1-t-butoxyformamido)valeramido]-p-toluic acid | C(C)(C)(C)OC(=O)NCCCCC(=O)NC=1C=C(C=CC1C(=O)O)C | C18H26N2O5
